US07947738B2
(14-e) 3-Hydroxy-4-cyclopentylhept-6-enoic acid
Methyl 3-hydroxy-4-cyclopentylhept-6-enoate (4.00 g, 17.7 mmol) was dissolved in a 2 N potassium hydroxide-methanol solution (53 mL), and the solution was stirred at room temperature for 1.5 hours. The solvent was distilled off under reduced pressure. To the residue, water and diethyl ether were then added, and the aqueous layer was neutralized with 2 N hydrochloric acid. Diethyl ether was added thereto. The organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain the compound of interest as a yellow oil substance (4.00 g (including the residual solvent)).

reactant | Methyl 3-hydroxy-4-cyclopentylhept-6-enoate | 17.7 mmol, 4.00 g | OC(CC(=O)OC)C(CC=C)C1CCCC1 | C13H22O3
solvent | potassium hydroxide methanol | 2 N, 53 mL | [OH-].[K+].CO
product | 3-Hydroxy-4-cyclopentylhept-6-enoic acid | OC(CC(=O)O)C(CC=C)C1CCCC1 | C12H20O3
